US07064124B2
N-[3-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]morpholine
Morpholine (0.176 g, 2.02 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.581 g, 3.03 mmol) were added to a methylene chloride solution (50 ml) of 3-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid (0.380 g, 1.01 mmol) and the resulting solution was stirred at room temperature for 12 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (chloroform:methanol=30:1) to obtain the titled compound (0.175 g, 0.394 mmol, 39%).

reactant | Morpholine | 2.02 mmol, 0.176 g | N1CCOCC1 | C4H9NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 3.03 mmol, 0.581 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 3-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid | 1.01 mmol, 0.380 g | COC=1C(C(=C(C(C1OC)=O)CC=1C(=C(C(=O)O)C=CC1)OC(C)=O)C)=O | C19H18O8
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-[3-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]morpholine | 0.394 mmol, 0.175 g, 39% | COC=1C(C(=C(C(C1OC)=O)CC=1C(=C(C(=O)N2CCOCC2)C=CC1)OC(C)=O)C)=O | C23H25NO8
